US07855290B2
N-(2-Fluoro-4-{[2-({[methyl(1-methylpiperidin-4-yl)amino]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-pyridin-3-ylcyclopropane-1,1-dicarboxamide
To a solution of 1-(2-fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)carbamoylcyclopropanecarboxylic acid (40 mg) in N,N-dimethylformamide (1.0 ml) were added 3-aminopyridine (15.5 mg), triethylamine (0.023 ml) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (72.9 mg) at room temperature, followed by stirring for 30 hr. Liquid-liquid separation was carried out after addition of ethyl acetate and water to the reaction mixture. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated under reduced pressure. A solid was precipitated by addition of diethyl ether:heptane=1:3 to the resultant residue. The solvent was removed under reduced pressure. The solid residue was dried under reduced pressure to provide the titled compound as white powder (14.7 mg, 32%).

reactant | 1-(2-fluoro-4-{2-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyridin-4-yloxy}phenyl)carbamoylcyclopropanecarboxylic acid | 40 mg | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N(C1CCN(CC1)C)C)NC(=O)C1(CC1)C(=O)O | C24H28FN5O5
reactant | 3-aminopyridine | 15.5 mg | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 0.023 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 72.9 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-(2-Fluoro-4-{[2-({[methyl(1-methylpiperidin-4-yl)amino]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-pyridin-3-ylcyclopropane-1,1-dicarboxamide | 14.7 mg, 32% | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N(C1CCN(CC1)C)C)NC(=O)C1(CC1)C(=O)NC=1C=NC=CC1 | C29H32FN7O4
